Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left renal mass suspicious for neoplasm
 
Major Surgical or Invasive Procedure:
Laparoscopic Debulking Left Nephrectomy

 
History of Present Illness:
___ yoF with recently diagnosed metastatic RCC (lungs) and found 
to have 10 CM L renal mass.
 
Physical Exam:
NAD
INC: CDI
soft, nt, nd
 
Pertinent Results:
___:  Hct 23.1
 
Brief Hospital Course:
Patient was admitted to Urology after undergoing laparoscopic 
debulking left radical nephrectomy. No concerning intraoperative 
events occurred; please see dictated operative note for details. 
The patient received perioperative antibiotic prophylaxis. The 
patient was transferred to the floor from the PACU in stable 
condition.  On POD0, pain was well controlled on epidural, 
hydrated for urine output >30cc/hour, provided with pneumoboots 
and incentive spirometry for prophylaxis. On POD1, the patient 
was restarted on home medications, basic metabolic panel and 
complete blood count were checked, pain control was transitioned 
to PCA, diet was advanced to a clearst. Pt was transfused 2u 
PRBC for Hct 23 and responded to Hct 28. On POD2, narcotics were 
changed to toradol since Cr was stable and pt did not tolerate 
narcotics well, urethral catheter (foley) was removed without 
difficulty, and diet was advanced to clears toast and crackers. 
POD# the JP was removed without incident. POD4 pt's Hct was 23 
again, Cr stable at 1.4 - CT scan w/o constrast failed to show 
active bleeding. The remainder of the hospital course was 
relatively unremarkable. The patient was discharged in stable 
condition, eating well, ambulating independently, voiding 
without difficulty, and with pain control on oral analgesics. On 
exam, incision was clean, dry, and intact, with no evidence of 
hematoma collection or infection. The patient was given explicit 
instructions to follow-up in clinic with Dr. ___ in ___ this ___ to check her Hematocrit and 
analyze her anemia.
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) for 30 days.
Disp:*60 Capsule(s)* Refills:*0*
2. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
4. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO at bedtime for 5 
days.
Disp:*10 Tablet(s)* Refills:*0*
8. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
9. Ferrous Gluconate 325 mg (37.5 mg Iron) Tablet Sig: One (1) 
Tablet PO TID (3 times a day).
Disp:*90 Tablet(s)* Refills:*2*
10. Ascorbic Acid ___ mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO TID (3 times a day): Same as Vitamin C.
Disp:*90 Tablet, Chewable(s)* Refills:*2*
11. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO four times a 
day: Take with food.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Renal Cell Cancer

 
Discharge Condition:
Stable

 
Discharge Instructions:
-You may shower but do not bathe, swim or immerse your incision. 


-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids. Take colace to prevent constipation and straining.

-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up.  

-Do not drive or drink alcohol while taking narcotics.  

-Resume all of your home medications. 

-Call your Urologist's office today to schedule a follow-up 
appointment in ___ weeks AND if you have any questions.
- Follow up ___ with ___ located at ___ Floor 9 
for blood draw.

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest ER.
 
Followup Instructions:
___